US04851526
1,2-Diethyl-4-piperidinone
To 100 mL of methylene chloride cooled to 0° C. is added 2-(trimethylsilyloxy)-1,3-butadiene (14.2 g, 0.1 mol), 8.5 g (0.1 mol) of N-ethyl-propanamine, and 14.2 g (0.1 mol) of borontrifluoride etherate. Monitor the reaction by thinlayer chromatography. Upon completion add 1N HCl until gas evolution ceases. Separate the aqueous layer and make it alkaline with 1N NaOH. Extract twice with 100 mL ether and dry over Na2SO4. Filter the drying agent and evaporated the solvent in vacuo to obtain the title compound.

reactant | 2-(trimethylsilyloxy)-1,3-butadiene | 0.1 mol, 14.2 g | C[Si](OC(=C)C=C)(C)C | C7H14OSi
reactant | N-ethyl-propanamine | 0.1 mol, 8.5 g | C(C)NCCC | C5H13N
reactant | borontrifluoride etherate | 0.1 mol, 14.2 g | B(F)(F)F.CCOCC
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,2-Diethyl-4-piperidinone | C(C)N1C(CC(CC1)=O)CC | C9H17NO
